US07767707B2
Synthesis of Fmoc-Gly
Glycine (Gly) (0.5 g, 6.66 mmole) was dissolved in 10% NaCO3 (14 ml) under stirring in a 50-ml flask. To the resulting solution, which had been put into an ice bath, 9-fluorenylmethoxycarbonyl chloride (Fmoc-Cl) (1.72 g, 6.66 mmol) in dioxane (12 ml) was gradually added. The reaction mixture was stirred at room temperature for 4 hours, and water (150 ml) was then added. The aqueous phase layer was separated from the reaction mixture and stripped with ether three times (75 ml×3). The stripped aqueous layer was acidified with 2N HCl aqueous solution to a pH value of 2, followed by extraction with ethyl acetate three times (75 ml×3). The organic phase layer was recovered and concentrated to obtain crude product of 1.70 g. The crude product was recrystallized in a mixed solvent of ethyl acetate hexane=1:2 (30 ml), and white solid denoted as Fmoc-Gly was obtained after filtration at a reduced pressure. Yield: 1.69 g (85%).

reactant | Glycine | 6.66 mmole, 0.5 g | NCC(=O)O | C2H5NO2
reactant | 9-fluorenylmethoxycarbonyl chloride | 6.66 mmol, 1.72 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)Cl | C15H11ClO2
reactant | water | 150 ml | O | H2O
solvent | dioxane | 12 ml | O1CCOCC1 | C4H8O2
product | Fmoc-Gly | N(CC(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C17H15NO4
